US06087392
To a solution of 4-aminotetrahydropyran-4-carboxylic acid ethyl ester (7.00 grams, 0.0404 mole) in N,N-dimethylformamide (40 mL) was added triethylamine (5.94 mL, 0.043 mole). Solid 4-(4-fluorophenoxy)benzenesulfonyl chloride (12.165 grams, 0.0424 mole) was added in portions. The resulting mixture was stirred at room temperature for 16 hours and then most of the solvent was removed by evaporation under vacuum. The residue was partitioned between saturated sodium bicarbonate solution and dichloromethane. The aqueous layer was extracted with dichloromethane. The combined organic layers were washed with brine and dried over sodium sulfate. Evaporation of the solvent under vacuum provided crude 4-[4-(4-fluorophenoxy)benzenesulfonylamino]tetrahydropyran-4-carboxylic acid ethyl ester as an amber oil (21.05 grams). Flash chromatography on silica gel eluting with 25% ethyl acetate/hexane followed by 50% ethyl acetate/hexane provided 4-[4-(4-fluorophenoxy)benzenesulfonylamino]tetrahydropyran-4-carboxylic acid ethyl ester as an off-white crystalline solid (12.15 grams, 71%, mp 116-117° C.).

reactant | 4-aminotetrahydropyran-4-carboxylic acid ethyl ester | 0.0404 mole, 7.00 grams | C(C)OC(=O)C1(CCOCC1)N | C8H15NO3
reactant | triethylamine | 0.043 mole, 5.94 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(4-fluorophenoxy)benzenesulfonyl chloride | 0.0424 mole, 12.165 grams | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)Cl)C=C1 | C12H8ClFO3S
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 4-[4-(4-fluorophenoxy)benzenesulfonylamino]tetrahydropyran-4-carboxylic acid ethyl ester | 12.15 grams, 71% | C(C)OC(=O)C1(CCOCC1)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C20H22FNO6S
